US07230031B2
Sodium N-[7-(4-hydroxy-3-isopropylphenoxy)-6-methylindan-4-yl]oxamate (Compound 114)
N-[7-(4-hydroxy-3-isopropylphenoxy)-6-methylindan-4-yl]oxamic acid (2.25 g) was dissolved in ethanol (20 mL). Adding a 1 mol/L aqueous solution of sodium hydroxide (6.09 mL), the mixture was stirred for 5 min. The reaction mixture was evaporated under reduced pressure to dryness. Adding water (0.115 mL) and diisopropyl ether (20 mL), the residue was stirred for 3 hours. The precipitate was filtrated to give the title compound (2.4 g).

reactant | N-[7-(4-hydroxy-3-isopropylphenoxy)-6-methylindan-4-yl]oxamic acid | 2.25 g | OC1=C(C=C(OC=2C(=CC(=C3CCCC23)NC(C(=O)O)=O)C)C=C1)C(C)C | C21H23NO5
reactant | sodium hydroxide | 6.09 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Sodium N-[7-(4-hydroxy-3-isopropylphenoxy)-6-methylindan-4-yl]oxamate | 2.4 g | OC1=C(C=C(OC=2C(=CC(=C3CCCC23)NC(C(=O)[O-])=O)C)C=C1)C(C)C.[Na+] | InChI=1S/C21H23NO5.Na/c1-11(2)16-10-13(7-8-18(16)23)27-19-12(3)9-17(22-20(24)21(25)26)14-5-4-6-15(14)19;/h7-11,23H,4-6H2,1-3H3,(H,22,24)(H,25,26);/q;+1/p-1
